US09447106B2
A solution of N-(3-acetylphenyl)acetamide (1.77 g, 10.0 mmol) in DMF-DMA (6 mL) with molecular sieve (10 portions) was stirred at 100° C. under N2 for 2 hr. the mixture was concentrated and washed with MTBE (30 mL) to afford 2.1 g (90%) of (E)-N-(3-(3-(dimethylamino)acryloyl)phenyl)acetamide as a yellow solid.

reactant | N-(3-acetylphenyl)acetamide | 10.0 mmol, 1.77 g | C(C)(=O)C=1C=C(C=CC1)NC(C)=O | C10H11NO2
reactant | DMF-DMA | 6 mL | CN(C)C(OC)OC | C5H13NO2
product | (E)-N-(3-(3-(dimethylamino)acryloyl)phenyl)acetamide | 2.1 g, 90% | CN(/C=C/C(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
